US06936602B1
To a solution of allyl 1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate (224 mg) in tetrahydrofuran (10 ml) were added tetrakistriphenylphosphinepalladium (74 mg) and morpholine (560 mg), and the mixture was stirred under argon atmosphere at room temperature for 2 hours. To the mixture was added water at 0° C., and the mixture was made acidic (pH=4) with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, further with water and saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure to give 1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylic acid (198 mg) as yellow amorphous.

reactant | allyl 1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate | 224 mg | C(C=C)N1CCC(=CC2=C1C=CC(=C2)Br)C(=O)OCC=C | C17H18BrNO2
reactant | morpholine | 560 mg | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetrakistriphenylphosphinepalladium | 74 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylic acid | 198 mg | C(C=C)N1CCC(=CC2=C1C=CC(=C2)Br)C(=O)O | C14H14BrNO2
